* Parametric 3-Stage Sau CFCC Operational Amplifier Template - AC Analysis
* Same circuit as opamp_3stage_sau_cfcc_template.sp but with AC stimulus,
* gm/gds .save directives, and .ac dec 100 1 10G replacing .op.
*
* Topology: PMOS folded-cascode input + cross-coupled feedforward + push-pull output
*
* Stage 1: PMOS diff pair (M8, M9) with folded NMOS cascode load
*          Tail current: M4 (2x bias mirror)
*          NMOS bias bottom: M19/M20 (8x), folds at DM_2 / net063
*          NMOS cascode: M15/M16 (gmc, 1x) -> VOUTN / net050
*          PMOS folded-mirror: M5 (diode at VOUTN), M6 (mirror -> net050)
*          PMOS feedforward: M7 (gmf1, gate=VOUTN) -> net049 (cross-coupled to Stage 2 output)
*          Output: net050 (drives Stage 2 & 3 PMOS gates)
*
* Stage 2: PMOS common-source M10 (gate=net050)
*          NMOS active load: M21 (diode), M22 (mirror, 3x)
*          Output: net049 (drives Stage 3 NMOS gate)
*
* Stage 3: Push-pull output
*          PMOS M11 (gate=net050) + NMOS M23 (gate=net049)
*          Output: vout
*
* Bias: I0 -> M0 (diode PMOS at net013) -> mirrors M1-M4
*       M14 (diode NMOS, VB3) + M12 cascode -> VB4
*
* Compensation: C0 cross-coupled cap (net063 -> vout) — Sau CFCC scheme
*
* Parameters (group-based):
*   BIASCM_P: {W_BIASCM_P}, {L_BIASCM_P}, {M_BIASCM_P}    (M0-M6, PMOS bias)
*   GM1:      {W_GM1},      {L_GM1},      {M_GM1}         (M8-M9, diff pair)
*   GMF1:     {W_GMF1},     {L_GMF1},     {M_GMF1}        (M7, cross-coupled feedforward)
*   GM2:      {W_GM2},      {L_GM2},      {M_GM2}         (M10, stage 2)
*   GMF2:     {W_GMF2},     {L_GMF2},     {M_GMF2}        (M11, stage 3 PMOS)
*   GMC:      {W_GMC},      {L_GMC},      {M_GMC}         (M15-M16, NMOS cascode of folded stage)
*   BIASCM_N: {W_BIASCM_N}, {L_BIASCM_N}, {M_BIASCM_N}    (M12-M14, M17-M20, NMOS bias)
*   LOAD2:    {W_LOAD2},    {L_LOAD2},    {M_LOAD2}       (M21-M22, stage 2 load)
*   GM3:      {W_GM3},      {L_GM3},      {M_GM3}         (M23, stage 3 NMOS)
*   {I_BIAS}, {C_COMP}, {R_IN}, {R_F}, {VDD}, {VIN_P}, {VIN_N}

.title 3-Stage Sau CFCC Operational Amplifier - AC Analysis

* Include SKY130 models
.param mc_mm_switch=0

* Define missing mismatch parameters
.param sky130_fd_pr__nfet_01v8__toxe_slope=0
.param sky130_fd_pr__nfet_01v8__toxe_slope_spectre=0
.param sky130_fd_pr__nfet_01v8__vth0_slope=0
.param sky130_fd_pr__nfet_01v8__vth0_slope1=0
.param sky130_fd_pr__nfet_01v8__vth0_slope_spectre=0
.param sky130_fd_pr__nfet_01v8__voff_slope=0
.param sky130_fd_pr__nfet_01v8__voff_slope_spectre=0
.param sky130_fd_pr__nfet_01v8__nfactor_slope=0
.param sky130_fd_pr__pfet_01v8__toxe_slope=0
.param sky130_fd_pr__pfet_01v8__toxe_slope1=0
.param sky130_fd_pr__pfet_01v8__toxe_slope_spectre=0
.param sky130_fd_pr__pfet_01v8__vth0_slope=0
.param sky130_fd_pr__pfet_01v8__vth0_slope1=0
.param sky130_fd_pr__pfet_01v8__vth0_slope_spectre=0
.param sky130_fd_pr__pfet_01v8__voff_slope=0
.param sky130_fd_pr__pfet_01v8__voff_slope1=0
.param sky130_fd_pr__pfet_01v8__voff_slope_spectre=0
.param sky130_fd_pr__pfet_01v8__nfactor_slope=0
.param sky130_fd_pr__pfet_01v8__nfactor_slope1=0

* Define diff parameters (process variation)
.param sky130_fd_pr__pfet_01v8__wlod_diff=0
.param sky130_fd_pr__pfet_01v8__kvth0_diff=0
.param sky130_fd_pr__pfet_01v8__lkvth0_diff=0
.param sky130_fd_pr__pfet_01v8__wkvth0_diff=0
.param sky130_fd_pr__pfet_01v8__ku0_diff=0
.param sky130_fd_pr__pfet_01v8__lku0_diff=0
.param sky130_fd_pr__pfet_01v8__wku0_diff=0
.param sky130_fd_pr__pfet_01v8__kvsat_diff=0

.include "/home/kevin/tech/sky130/libraries/sky130_fd_pr/latest/cells/pfet_01v8/sky130_fd_pr__pfet_01v8__tt.corner.spice"
.include "/home/kevin/tech/sky130/libraries/sky130_fd_pr/latest/cells/nfet_01v8/sky130_fd_pr__nfet_01v8__tt.corner.spice"

* Power supplies
Vdd vdda 0 DC {VDD}
Vss gnda 0 DC 0

* Input configuration (open-loop)
* vinp = non-inverting input (M9 gate)
* vinn = inverting input (M8 gate), driven directly (no feedback)
Vcm_ref  vinp   0    DC {VIN_P}
Vinn     vinn   0    DC {VIN_N} AC 1

* =========================
* PMOS BIAS MIRROR (M0-M4)
* =========================

* M0: diode-connected PMOS bias reference (replaces 'nbias' as net013)
Xm0 net013 net013 vdda vdda sky130_fd_pr__pfet_01v8 W={W_BIASCM_P} L={L_BIASCM_P} M={M_BIASCM_P}

* M1: bias mirror -> VB4 generation
Xm1 vb4 net013 vdda vdda sky130_fd_pr__pfet_01v8 W={W_BIASCM_P} L={L_BIASCM_P} M={M_BIASCM_P}

* M2: bias mirror -> DM_1 (cascode bias branch)
Xm2 dm_1 net013 vdda vdda sky130_fd_pr__pfet_01v8 W={W_BIASCM_P} L={L_BIASCM_P} M={M_BIASCM_P}

* M3: bias mirror -> VB3 generation
Xm3 vb3 net013 vdda vdda sky130_fd_pr__pfet_01v8 W={W_BIASCM_P} L={L_BIASCM_P} M={M_BIASCM_P}

* M4: tail current for diff pair (2x multiplier)
Xm4 net31 net013 vdda vdda sky130_fd_pr__pfet_01v8 W={W_BIASCM_P} L={L_BIASCM_P} M='2*{M_BIASCM_P}'

* =========================
* PMOS FOLDED-MIRROR (M5, M6)
* =========================

* M5: diode-connected PMOS at VOUTN (sets folded-cascode top current)
Xm5 voutn voutn vdda vdda sky130_fd_pr__pfet_01v8 W={W_BIASCM_P} L={L_BIASCM_P} M={M_BIASCM_P}

* M6: mirror from VOUTN -> net050 (Stage 1 output)
Xm6 net050 voutn vdda vdda sky130_fd_pr__pfet_01v8 W={W_BIASCM_P} L={L_BIASCM_P} M={M_BIASCM_P}

* =========================
* CROSS-COUPLED FEEDFORWARD (M7)
* =========================

* M7: PMOS feedforward (gate=VOUTN) -> net049 (Stage 2 output node)
* This is the Sau CFCC topology distinguishing element.
Xm7 net049 voutn vdda vdda sky130_fd_pr__pfet_01v8 W={W_GMF1} L={L_GMF1} M={M_GMF1}

* =========================
* STAGE 1: PMOS DIFF PAIR
* =========================

* M8: inverting input (VINN), bulk shorted to source for zero body effect
Xm8 dm_2 vinn net31 net31 sky130_fd_pr__pfet_01v8 W={W_GM1} L={L_GM1} M={M_GM1}

* M9: non-inverting input (VINP), bulk shorted to source
Xm9 net063 vinp net31 net31 sky130_fd_pr__pfet_01v8 W={W_GM1} L={L_GM1} M={M_GM1}

* =========================
* STAGE 1: NMOS FOLDED CASCODE LOAD
* =========================

* Bottom bias devices (VB4 gate)
* M19: left branch bottom (8x)
Xm19 dm_2 vb4 gnda gnda sky130_fd_pr__nfet_01v8 W={W_BIASCM_N} L={L_BIASCM_N} M='8*{M_BIASCM_N}'

* M20: right branch bottom (8x)
Xm20 net063 vb4 gnda gnda sky130_fd_pr__nfet_01v8 W={W_BIASCM_N} L={L_BIASCM_N} M='8*{M_BIASCM_N}'

* Cascode devices (VB3 gate) - 'GMC' group (NMOS folded cascode)
* M15: left branch cascode -> VOUTN
Xm15 voutn vb3 dm_2 gnda sky130_fd_pr__nfet_01v8 W={W_GMC} L={L_GMC} M={M_GMC}

* M16: right branch cascode -> net050 (Stage 1 output)
Xm16 net050 vb3 net063 gnda sky130_fd_pr__nfet_01v8 W={W_GMC} L={L_GMC} M={M_GMC}

* =========================
* NMOS BIAS GENERATION
* =========================

* M14: diode-connected NMOS -> VB3
Xm14 vb3 vb3 gnda gnda sky130_fd_pr__nfet_01v8 W={W_BIASCM_N} L={L_BIASCM_N} M={M_BIASCM_N}

* M17: bottom for VB4 cascode generation (4x)
Xm17 net54 vb4 gnda gnda sky130_fd_pr__nfet_01v8 W={W_BIASCM_N} L={L_BIASCM_N} M='4*{M_BIASCM_N}'

* M12: cascode for VB4 generation (4x)
Xm12 vb4 vb3 net54 gnda sky130_fd_pr__nfet_01v8 W={W_BIASCM_N} L={L_BIASCM_N} M='4*{M_BIASCM_N}'

* M18: bottom for DM_1 cascode branch (4x)
Xm18 net56 vb4 gnda gnda sky130_fd_pr__nfet_01v8 W={W_BIASCM_N} L={L_BIASCM_N} M='4*{M_BIASCM_N}'

* M13: cascode for DM_1 branch (4x)
Xm13 dm_1 vb3 net56 gnda sky130_fd_pr__nfet_01v8 W={W_BIASCM_N} L={L_BIASCM_N} M='4*{M_BIASCM_N}'

* =========================
* STAGE 2: COMMON-SOURCE
* =========================

* M10: PMOS gain stage (gate=net050)
Xm10 net043 net050 vdda vdda sky130_fd_pr__pfet_01v8 W={W_GM2} L={L_GM2} M={M_GM2}

* M21: NMOS diode-connected load
Xm21 net043 net043 gnda gnda sky130_fd_pr__nfet_01v8 W={W_LOAD2} L={L_LOAD2} M={M_LOAD2}

* M22: NMOS mirror load -> net049 (3x to scale stage-2 current)
Xm22 net049 net043 gnda gnda sky130_fd_pr__nfet_01v8 W={W_LOAD2} L={L_LOAD2} M='3*{M_LOAD2}'

* =========================
* STAGE 3: PUSH-PULL OUTPUT
* =========================

* M11: PMOS output (gate=net050)
Xm11 vout net050 vdda vdda sky130_fd_pr__pfet_01v8 W={W_GMF2} L={L_GMF2} M={M_GMF2}

* M23: NMOS output (gate=net049)
Xm23 vout net049 gnda gnda sky130_fd_pr__nfet_01v8 W={W_GM3} L={L_GM3} M={M_GM3}

* =========================
* BIAS CURRENT SOURCE
* =========================

I0 net013 gnda DC {I_BIAS}

* =========================
* COMPENSATION NETWORK
* =========================

* Cross-coupled compensation cap: net063 (Stage 1 right branch fold) -> vout
* Distinguishing feature of the Sau CFCC topology.
C0 net063 vout {C_COMP}

* =========================
* OUTPUT LOAD
* =========================

Cload vout 0 10p

* =========================
* SAVE DEVICE CURRENTS
* =========================

.save all
* MOSFET drain currents (PMOS)
.save @m.xm0.msky130_fd_pr__pfet_01v8[id]
.save @m.xm1.msky130_fd_pr__pfet_01v8[id]
.save @m.xm2.msky130_fd_pr__pfet_01v8[id]
.save @m.xm3.msky130_fd_pr__pfet_01v8[id]
.save @m.xm4.msky130_fd_pr__pfet_01v8[id]
.save @m.xm5.msky130_fd_pr__pfet_01v8[id]
.save @m.xm6.msky130_fd_pr__pfet_01v8[id]
.save @m.xm7.msky130_fd_pr__pfet_01v8[id]
.save @m.xm8.msky130_fd_pr__pfet_01v8[id]
.save @m.xm9.msky130_fd_pr__pfet_01v8[id]
.save @m.xm10.msky130_fd_pr__pfet_01v8[id]
.save @m.xm11.msky130_fd_pr__pfet_01v8[id]
* MOSFET drain currents (NMOS)
.save @m.xm12.msky130_fd_pr__nfet_01v8[id]
.save @m.xm13.msky130_fd_pr__nfet_01v8[id]
.save @m.xm14.msky130_fd_pr__nfet_01v8[id]
.save @m.xm15.msky130_fd_pr__nfet_01v8[id]
.save @m.xm16.msky130_fd_pr__nfet_01v8[id]
.save @m.xm17.msky130_fd_pr__nfet_01v8[id]
.save @m.xm18.msky130_fd_pr__nfet_01v8[id]
.save @m.xm19.msky130_fd_pr__nfet_01v8[id]
.save @m.xm20.msky130_fd_pr__nfet_01v8[id]
.save @m.xm21.msky130_fd_pr__nfet_01v8[id]
.save @m.xm22.msky130_fd_pr__nfet_01v8[id]
.save @m.xm23.msky130_fd_pr__nfet_01v8[id]
* MOSFET source currents (PMOS)
.save @m.xm0.msky130_fd_pr__pfet_01v8[is]
.save @m.xm1.msky130_fd_pr__pfet_01v8[is]
.save @m.xm2.msky130_fd_pr__pfet_01v8[is]
.save @m.xm3.msky130_fd_pr__pfet_01v8[is]
.save @m.xm4.msky130_fd_pr__pfet_01v8[is]
.save @m.xm5.msky130_fd_pr__pfet_01v8[is]
.save @m.xm6.msky130_fd_pr__pfet_01v8[is]
.save @m.xm7.msky130_fd_pr__pfet_01v8[is]
.save @m.xm8.msky130_fd_pr__pfet_01v8[is]
.save @m.xm9.msky130_fd_pr__pfet_01v8[is]
.save @m.xm10.msky130_fd_pr__pfet_01v8[is]
.save @m.xm11.msky130_fd_pr__pfet_01v8[is]
* MOSFET source currents (NMOS)
.save @m.xm12.msky130_fd_pr__nfet_01v8[is]
.save @m.xm13.msky130_fd_pr__nfet_01v8[is]
.save @m.xm14.msky130_fd_pr__nfet_01v8[is]
.save @m.xm15.msky130_fd_pr__nfet_01v8[is]
.save @m.xm16.msky130_fd_pr__nfet_01v8[is]
.save @m.xm17.msky130_fd_pr__nfet_01v8[is]
.save @m.xm18.msky130_fd_pr__nfet_01v8[is]
.save @m.xm19.msky130_fd_pr__nfet_01v8[is]
.save @m.xm20.msky130_fd_pr__nfet_01v8[is]
.save @m.xm21.msky130_fd_pr__nfet_01v8[is]
.save @m.xm22.msky130_fd_pr__nfet_01v8[is]
.save @m.xm23.msky130_fd_pr__nfet_01v8[is]
* MOSFET gate currents (PMOS)
.save @m.xm0.msky130_fd_pr__pfet_01v8[ig]
.save @m.xm1.msky130_fd_pr__pfet_01v8[ig]
.save @m.xm2.msky130_fd_pr__pfet_01v8[ig]
.save @m.xm3.msky130_fd_pr__pfet_01v8[ig]
.save @m.xm4.msky130_fd_pr__pfet_01v8[ig]
.save @m.xm5.msky130_fd_pr__pfet_01v8[ig]
.save @m.xm6.msky130_fd_pr__pfet_01v8[ig]
.save @m.xm7.msky130_fd_pr__pfet_01v8[ig]
.save @m.xm8.msky130_fd_pr__pfet_01v8[ig]
.save @m.xm9.msky130_fd_pr__pfet_01v8[ig]
.save @m.xm10.msky130_fd_pr__pfet_01v8[ig]
.save @m.xm11.msky130_fd_pr__pfet_01v8[ig]
* MOSFET gate currents (NMOS)
.save @m.xm12.msky130_fd_pr__nfet_01v8[ig]
.save @m.xm13.msky130_fd_pr__nfet_01v8[ig]
.save @m.xm14.msky130_fd_pr__nfet_01v8[ig]
.save @m.xm15.msky130_fd_pr__nfet_01v8[ig]
.save @m.xm16.msky130_fd_pr__nfet_01v8[ig]
.save @m.xm17.msky130_fd_pr__nfet_01v8[ig]
.save @m.xm18.msky130_fd_pr__nfet_01v8[ig]
.save @m.xm19.msky130_fd_pr__nfet_01v8[ig]
.save @m.xm20.msky130_fd_pr__nfet_01v8[ig]
.save @m.xm21.msky130_fd_pr__nfet_01v8[ig]
.save @m.xm22.msky130_fd_pr__nfet_01v8[ig]
.save @m.xm23.msky130_fd_pr__nfet_01v8[ig]
* MOSFET bulk currents (PMOS)
.save @m.xm0.msky130_fd_pr__pfet_01v8[ib]
.save @m.xm1.msky130_fd_pr__pfet_01v8[ib]
.save @m.xm2.msky130_fd_pr__pfet_01v8[ib]
.save @m.xm3.msky130_fd_pr__pfet_01v8[ib]
.save @m.xm4.msky130_fd_pr__pfet_01v8[ib]
.save @m.xm5.msky130_fd_pr__pfet_01v8[ib]
.save @m.xm6.msky130_fd_pr__pfet_01v8[ib]
.save @m.xm7.msky130_fd_pr__pfet_01v8[ib]
.save @m.xm8.msky130_fd_pr__pfet_01v8[ib]
.save @m.xm9.msky130_fd_pr__pfet_01v8[ib]
.save @m.xm10.msky130_fd_pr__pfet_01v8[ib]
.save @m.xm11.msky130_fd_pr__pfet_01v8[ib]
* MOSFET bulk currents (NMOS)
.save @m.xm12.msky130_fd_pr__nfet_01v8[ib]
.save @m.xm13.msky130_fd_pr__nfet_01v8[ib]
.save @m.xm14.msky130_fd_pr__nfet_01v8[ib]
.save @m.xm15.msky130_fd_pr__nfet_01v8[ib]
.save @m.xm16.msky130_fd_pr__nfet_01v8[ib]
.save @m.xm17.msky130_fd_pr__nfet_01v8[ib]
.save @m.xm18.msky130_fd_pr__nfet_01v8[ib]
.save @m.xm19.msky130_fd_pr__nfet_01v8[ib]
.save @m.xm20.msky130_fd_pr__nfet_01v8[ib]
.save @m.xm21.msky130_fd_pr__nfet_01v8[ib]
.save @m.xm22.msky130_fd_pr__nfet_01v8[ib]
.save @m.xm23.msky130_fd_pr__nfet_01v8[ib]
* MOSFET operating point parameters (PMOS)
.save @m.xm0.msky130_fd_pr__pfet_01v8[vgs] @m.xm0.msky130_fd_pr__pfet_01v8[vds] @m.xm0.msky130_fd_pr__pfet_01v8[vdsat] @m.xm0.msky130_fd_pr__pfet_01v8[vth]
.save @m.xm1.msky130_fd_pr__pfet_01v8[vgs] @m.xm1.msky130_fd_pr__pfet_01v8[vds] @m.xm1.msky130_fd_pr__pfet_01v8[vdsat] @m.xm1.msky130_fd_pr__pfet_01v8[vth]
.save @m.xm2.msky130_fd_pr__pfet_01v8[vgs] @m.xm2.msky130_fd_pr__pfet_01v8[vds] @m.xm2.msky130_fd_pr__pfet_01v8[vdsat] @m.xm2.msky130_fd_pr__pfet_01v8[vth]
.save @m.xm3.msky130_fd_pr__pfet_01v8[vgs] @m.xm3.msky130_fd_pr__pfet_01v8[vds] @m.xm3.msky130_fd_pr__pfet_01v8[vdsat] @m.xm3.msky130_fd_pr__pfet_01v8[vth]
.save @m.xm4.msky130_fd_pr__pfet_01v8[vgs] @m.xm4.msky130_fd_pr__pfet_01v8[vds] @m.xm4.msky130_fd_pr__pfet_01v8[vdsat] @m.xm4.msky130_fd_pr__pfet_01v8[vth]
.save @m.xm5.msky130_fd_pr__pfet_01v8[vgs] @m.xm5.msky130_fd_pr__pfet_01v8[vds] @m.xm5.msky130_fd_pr__pfet_01v8[vdsat] @m.xm5.msky130_fd_pr__pfet_01v8[vth]
.save @m.xm6.msky130_fd_pr__pfet_01v8[vgs] @m.xm6.msky130_fd_pr__pfet_01v8[vds] @m.xm6.msky130_fd_pr__pfet_01v8[vdsat] @m.xm6.msky130_fd_pr__pfet_01v8[vth]
.save @m.xm7.msky130_fd_pr__pfet_01v8[vgs] @m.xm7.msky130_fd_pr__pfet_01v8[vds] @m.xm7.msky130_fd_pr__pfet_01v8[vdsat] @m.xm7.msky130_fd_pr__pfet_01v8[vth]
.save @m.xm8.msky130_fd_pr__pfet_01v8[vgs] @m.xm8.msky130_fd_pr__pfet_01v8[vds] @m.xm8.msky130_fd_pr__pfet_01v8[vdsat] @m.xm8.msky130_fd_pr__pfet_01v8[vth]
.save @m.xm9.msky130_fd_pr__pfet_01v8[vgs] @m.xm9.msky130_fd_pr__pfet_01v8[vds] @m.xm9.msky130_fd_pr__pfet_01v8[vdsat] @m.xm9.msky130_fd_pr__pfet_01v8[vth]
.save @m.xm10.msky130_fd_pr__pfet_01v8[vgs] @m.xm10.msky130_fd_pr__pfet_01v8[vds] @m.xm10.msky130_fd_pr__pfet_01v8[vdsat] @m.xm10.msky130_fd_pr__pfet_01v8[vth]
.save @m.xm11.msky130_fd_pr__pfet_01v8[vgs] @m.xm11.msky130_fd_pr__pfet_01v8[vds] @m.xm11.msky130_fd_pr__pfet_01v8[vdsat] @m.xm11.msky130_fd_pr__pfet_01v8[vth]
* MOSFET operating point parameters (NMOS)
.save @m.xm12.msky130_fd_pr__nfet_01v8[vgs] @m.xm12.msky130_fd_pr__nfet_01v8[vds] @m.xm12.msky130_fd_pr__nfet_01v8[vdsat] @m.xm12.msky130_fd_pr__nfet_01v8[vth]
.save @m.xm13.msky130_fd_pr__nfet_01v8[vgs] @m.xm13.msky130_fd_pr__nfet_01v8[vds] @m.xm13.msky130_fd_pr__nfet_01v8[vdsat] @m.xm13.msky130_fd_pr__nfet_01v8[vth]
.save @m.xm14.msky130_fd_pr__nfet_01v8[vgs] @m.xm14.msky130_fd_pr__nfet_01v8[vds] @m.xm14.msky130_fd_pr__nfet_01v8[vdsat] @m.xm14.msky130_fd_pr__nfet_01v8[vth]
.save @m.xm15.msky130_fd_pr__nfet_01v8[vgs] @m.xm15.msky130_fd_pr__nfet_01v8[vds] @m.xm15.msky130_fd_pr__nfet_01v8[vdsat] @m.xm15.msky130_fd_pr__nfet_01v8[vth]
.save @m.xm16.msky130_fd_pr__nfet_01v8[vgs] @m.xm16.msky130_fd_pr__nfet_01v8[vds] @m.xm16.msky130_fd_pr__nfet_01v8[vdsat] @m.xm16.msky130_fd_pr__nfet_01v8[vth]
.save @m.xm17.msky130_fd_pr__nfet_01v8[vgs] @m.xm17.msky130_fd_pr__nfet_01v8[vds] @m.xm17.msky130_fd_pr__nfet_01v8[vdsat] @m.xm17.msky130_fd_pr__nfet_01v8[vth]
.save @m.xm18.msky130_fd_pr__nfet_01v8[vgs] @m.xm18.msky130_fd_pr__nfet_01v8[vds] @m.xm18.msky130_fd_pr__nfet_01v8[vdsat] @m.xm18.msky130_fd_pr__nfet_01v8[vth]
.save @m.xm19.msky130_fd_pr__nfet_01v8[vgs] @m.xm19.msky130_fd_pr__nfet_01v8[vds] @m.xm19.msky130_fd_pr__nfet_01v8[vdsat] @m.xm19.msky130_fd_pr__nfet_01v8[vth]
.save @m.xm20.msky130_fd_pr__nfet_01v8[vgs] @m.xm20.msky130_fd_pr__nfet_01v8[vds] @m.xm20.msky130_fd_pr__nfet_01v8[vdsat] @m.xm20.msky130_fd_pr__nfet_01v8[vth]
.save @m.xm21.msky130_fd_pr__nfet_01v8[vgs] @m.xm21.msky130_fd_pr__nfet_01v8[vds] @m.xm21.msky130_fd_pr__nfet_01v8[vdsat] @m.xm21.msky130_fd_pr__nfet_01v8[vth]
.save @m.xm22.msky130_fd_pr__nfet_01v8[vgs] @m.xm22.msky130_fd_pr__nfet_01v8[vds] @m.xm22.msky130_fd_pr__nfet_01v8[vdsat] @m.xm22.msky130_fd_pr__nfet_01v8[vth]
.save @m.xm23.msky130_fd_pr__nfet_01v8[vgs] @m.xm23.msky130_fd_pr__nfet_01v8[vds] @m.xm23.msky130_fd_pr__nfet_01v8[vdsat] @m.xm23.msky130_fd_pr__nfet_01v8[vth]
* MOSFET small-signal parameters (PMOS)
.save @m.xm0.msky130_fd_pr__pfet_01v8[gm] @m.xm0.msky130_fd_pr__pfet_01v8[gds]
.save @m.xm1.msky130_fd_pr__pfet_01v8[gm] @m.xm1.msky130_fd_pr__pfet_01v8[gds]
.save @m.xm2.msky130_fd_pr__pfet_01v8[gm] @m.xm2.msky130_fd_pr__pfet_01v8[gds]
.save @m.xm3.msky130_fd_pr__pfet_01v8[gm] @m.xm3.msky130_fd_pr__pfet_01v8[gds]
.save @m.xm4.msky130_fd_pr__pfet_01v8[gm] @m.xm4.msky130_fd_pr__pfet_01v8[gds]
.save @m.xm5.msky130_fd_pr__pfet_01v8[gm] @m.xm5.msky130_fd_pr__pfet_01v8[gds]
.save @m.xm6.msky130_fd_pr__pfet_01v8[gm] @m.xm6.msky130_fd_pr__pfet_01v8[gds]
.save @m.xm7.msky130_fd_pr__pfet_01v8[gm] @m.xm7.msky130_fd_pr__pfet_01v8[gds]
.save @m.xm8.msky130_fd_pr__pfet_01v8[gm] @m.xm8.msky130_fd_pr__pfet_01v8[gds]
.save @m.xm9.msky130_fd_pr__pfet_01v8[gm] @m.xm9.msky130_fd_pr__pfet_01v8[gds]
.save @m.xm10.msky130_fd_pr__pfet_01v8[gm] @m.xm10.msky130_fd_pr__pfet_01v8[gds]
.save @m.xm11.msky130_fd_pr__pfet_01v8[gm] @m.xm11.msky130_fd_pr__pfet_01v8[gds]
* MOSFET small-signal parameters (NMOS)
.save @m.xm12.msky130_fd_pr__nfet_01v8[gm] @m.xm12.msky130_fd_pr__nfet_01v8[gds]
.save @m.xm13.msky130_fd_pr__nfet_01v8[gm] @m.xm13.msky130_fd_pr__nfet_01v8[gds]
.save @m.xm14.msky130_fd_pr__nfet_01v8[gm] @m.xm14.msky130_fd_pr__nfet_01v8[gds]
.save @m.xm15.msky130_fd_pr__nfet_01v8[gm] @m.xm15.msky130_fd_pr__nfet_01v8[gds]
.save @m.xm16.msky130_fd_pr__nfet_01v8[gm] @m.xm16.msky130_fd_pr__nfet_01v8[gds]
.save @m.xm17.msky130_fd_pr__nfet_01v8[gm] @m.xm17.msky130_fd_pr__nfet_01v8[gds]
.save @m.xm18.msky130_fd_pr__nfet_01v8[gm] @m.xm18.msky130_fd_pr__nfet_01v8[gds]
.save @m.xm19.msky130_fd_pr__nfet_01v8[gm] @m.xm19.msky130_fd_pr__nfet_01v8[gds]
.save @m.xm20.msky130_fd_pr__nfet_01v8[gm] @m.xm20.msky130_fd_pr__nfet_01v8[gds]
.save @m.xm21.msky130_fd_pr__nfet_01v8[gm] @m.xm21.msky130_fd_pr__nfet_01v8[gds]
.save @m.xm22.msky130_fd_pr__nfet_01v8[gm] @m.xm22.msky130_fd_pr__nfet_01v8[gds]
.save @m.xm23.msky130_fd_pr__nfet_01v8[gm] @m.xm23.msky130_fd_pr__nfet_01v8[gds]
* Resistor and source currents
.save @rin[i]
.save @rfb[i]
.save @i0[i]

* =========================
* ANALYSIS
* =========================

.op
.ac dec 100 1 10G

.end
